US04816475
2-{Bis(4-fluorophenyl)hydroxymethyl}-1,3,5-trithiane (compound No. 7)
In 30 ml of anhydrous tetrahydrofuran was suspended 2.6 g of 1,3,5-trithiane, and 12 ml of 1.6M n-bytyl lithium was added dropwise under an argon atmosphere at a temperature of about -20° C. After completion of the dropwise addition, the resulting mixture was stirred for 2 hours. Next, the reaction mixture was cooled to about -60° C., and then a solution of 4.4 g of 4,4'-difluorobenzophenone dissolved in 100 ml of tetrahydrofuran was dropped thereinto. After completion of the dropping, the reaction temperature was slowly raised to 0° C. After stirring at 0° C. for another 1 hour, the reaction mixture thus obtained was poured into ice water and the resulting mixture was extracted with chloroform. The extract was washed with a saturated aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate, and the solvent was removed by distillation under reduced pressure. The crude product thus obtained was recrystallized from ether-hexane to give 5.58 g of the desired compound.

reactant | 1,3,5-trithiane | 2.6 g | S1CSCSC1 | C3H6S3
reactant | lithium | 1.6M, 12 ml | [Li] | Li
reactant | 4,4'-difluorobenzophenone | 4.4 g | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-{Bis(4-fluorophenyl)hydroxymethyl}-1,3,5-trithiane | 5.58 g, Yield 81.5% | FC1=CC=C(C=C1)C(C1SCSCS1)(O)C1=CC=C(C=C1)F | C16H14F2OS3
